US08217069B2
3-[2-Chloro-5-(3,4-dihydroquinolin-1(2H)-ylsulfonyl)phenyl]-1,3-dihydro-2H-imidazo-[4,5-b]pyridin-2-one
To a mixture of 2-chloronicotinic acid (0.13 g) and 2-chloro-5-(3,4-dihydroquinolin-1(2H)-ylsulfonyl)aniline (0.3 g) in N,N-dimethylformamide (2 mL) were added copper powder (6 mg) and potassium carbonate (0.13 g), and the mixture was heated at reflux for 8 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in 1,4-dioxane (10 mL) To the solution were added triethylamine (0.42 mL) and diphenylphosphoryl azide (0.26 mL), and the mixture was stirred at 100° C. for 3 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/2) to give the title compound (48 mg).

reactant | 2-chloronicotinic acid | 0.13 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 2-chloro-5-(3,4-dihydroquinolin-1(2H)-ylsulfonyl)aniline | 0.3 g | ClC1=C(N)C=C(C=C1)S(=O)(=O)N1CCCC2=CC=CC=C12 | C15H15ClN2O2S
reactant | potassium carbonate | 0.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | copper | 6 mg | [Cu] | Cu
product | 3-[2-Chloro-5-(3,4-dihydroquinolin-1(2H)-ylsulfonyl)phenyl]-1,3-dihydro-2H-imidazo-[4,5-b]pyridin-2-one | 48 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N1CCCC2=CC=CC=C12)N1C(NC=2C1=NC=CC2)=O | C21H17ClN4O3S
